US07741364B2
4-[2-(4-bromo-phenyl)-5-methyl-pyrrol-1-yl]-benzenesulfonamide
4-Bromobenzaldehyde and but-3-en-2-one were treated according to the procedure outlined in General Procedure C followed by subjecting the resulting product to conditions outlined in General Procedure D along with p-aminosulfonyl phenylamine to obtain the titled compound. 1H NMR (CDCl3) δ ppm 2.15 (3H), 4.81 (2H), 6.15 (1H), 6.29 (1H), 6.95-7.85 (8H); MS (ESI) m/z 391/393 (M+H)

reactant | 4-Bromobenzaldehyde | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | but-3-en-2-one | CC(C=C)=O | C4H6O
reactant | p-aminosulfonyl phenylamine | NS(=O)(=O)C1=CC=C(C=C1)N | C6H8N2O2S
product | 4-[2-(4-bromo-phenyl)-5-methyl-pyrrol-1-yl]-benzenesulfonamide | BrC1=CC=C(C=C1)C=1N(C(=CC1)C)C1=CC=C(C=C1)S(=O)(=O)N | C17H15BrN2O2S
